US04364875
2-Chloro-3-phenoxy-6-nitro-N-(4-chloro-benzyl)-aniline
A mixture of 5 gm of 2-chloro-4-nitro-1,3-diphenoxy-benzene, 10 ml of dioxane and 6 gm of 4-chlorobenzylamine was stirred for 12 hours at 80° C. Thereafter, the reaction mixture was evaporated, the residue was taken up in chloroform, the resulting solution was extracted with 1 N sodium hydroxide, and the organic phase was dried with sodium sulfate. The chloroform was distilled off, and the residue was recrystallized from ethanol, yielding 4.7 gm (82.7% of theory) of the title compound, m.p. 95°-96° C.

reactant | 2-chloro-4-nitro-1,3-diphenoxy-benzene | 5 gm | ClC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C18H12ClNO4
reactant | 4-chlorobenzylamine | 6 gm | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-3-phenoxy-6-nitro-N-(4-chloro-benzyl)-aniline | ClC1=C(NCC2=CC=C(C=C2)Cl)C(=CC=C1OC1=CC=CC=C1)[N+](=O)[O-] | C19H14Cl2N2O3
